US04096253
17β-(2-Cyanoethoxy)-1,3-dimethoxyestra-1,3,5-(10)-triene
When in the above procedure 1,3-diethoxy-17β-hydroxyestra-1,3,5(10)-triene and 3-ethoxy-17β-hydroxy-1-methoxyestra-1,3,5(10)-triene are employed in place of 1,3-dimethoxy-17β-hydroxyestra-1,3,5(10)-triene, 17β-(2-cyanoethoxy)-1,3-diethoxyestra-1,3,5(10)-triene and 17β-(2-cyanoethoxy)-3-ethoxy-1-methoxyestra-1,3,5(10)-triene are obtained.

reactant | 1,3-diethoxy-17β-hydroxyestra-1,3,5(10)-triene | C(C)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OCC | C22H32O3
reactant | 3-ethoxy-17β-hydroxy-1-methoxyestra-1,3,5(10)-triene | C(C)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C(=C1)OC)O | C21H30O3
reactant | 1,3-dimethoxy-17β-hydroxyestra-1,3,5(10)-triene | COC1=CC(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OC | C20H28O3
reactant | 17β-(2-cyanoethoxy)-1,3-diethoxyestra-1,3,5(10)-triene | C(#N)CCO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=C(C3[C@H]1CC2)OCC)OCC | C25H35NO3
reactant | 17β-(2-cyanoethoxy)-3-ethoxy-1-methoxyestra-1,3,5(10)-triene | C(#N)CCO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=C(C3[C@H]1CC2)OC)OCC | C24H33NO3
product | 17β-(2-Cyanoethoxy)-1,3-dimethoxyestra-1,3,5-(10)-triene | C(#N)CCO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=C(C3[C@H]1CC2)OC)OC | C23H31NO3
